US09260413B2
To a suspension of sodium hydride (44.2 g, 60 percent in oil, 1.1 mol) in dry toluene (800 mL) was added dropwise a solution of benzyl alcohol (108 mL, 1.0 mol, in 200 mL of toluene) at 0° C. under nitrogen over 30 min. The resulting mixture was stirred for 3.5 h at rt. The reaction was then cooled with ice water, to which a solution of ethyl bromoacetate (167.6 g, 1.0 mmol, in 200 mL of toluene) was added in 30 min and the resulting mixture was stirred for additional 25 min at 0° C. The reaction mixture was then poured into a mixed solution of 800 mL of cold water and 10 mL of cone HCl, followed by extraction with toluene. The organic layer was washed with saturated aq NaCl and dried over anhydrous MgSO4. Filtration, evaporation, and purification by flash chromatography provided ethyl(benzyloxy)acetate. (98 g, 50.5%). 1H-NMR δ (400 MHz, CDC3): 7.38-7.30 (m, 5H), 4.63 (s, 2H), 4.22 (q, J=7.2 Hz, 2H), 4.09 (s, 2H), 1.28 (t, J=7.2 Hz, 3H).

reactant | sodium hydride | 1.1 mol, 44.2 g | [H-].[Na+]
reactant | benzyl alcohol | 1.0 mol, 108 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | ethyl bromoacetate | 1.0 mmol, 200 mL, 167.6 g | BrCC(=O)OCC | C4H7BrO2
reactant | HCl | Cl | ClH
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 800 mL | O | H2O
product | ethyl(benzyloxy)acetate | C(C)OC(COCC1=CC=CC=C1)=O | C11H14O3
